### PR TITLE
feat(Data/List): add basic API for toChunks

### PR DESCRIPTION
**Pull request by Whning0513**
Adds basic API lemmas for `List.toChunks`: flattening recovers the input, chunks are nonempty sublists, and their lengths are bounded by the chunk size.

This addresses the `Data/List/Basic: SP: toChunks` item in #7987.

Tests:
- `lake env lean Mathlib/Data/List/ToChunks.lean`
- `lake build Mathlib.Data.List.ToChunks`
- `lake exe runLinter Mathlib.Data.List.ToChunks`

AI use: OpenAI Codex was used to rebase the branch, run the checks above, and submit this pull request. The code and proofs were written and reviewed by the author.

### CODE REVIEW

File: Mathlib/Data/List/ToChunks.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+@[simp]
+theorem toChunks_eq_nil (n : ℕ) (xs : List α) : xs.toChunks n = [] ↔ xs = [] := by
+  constructor
+  · intro h
+    rw [← flatten_toChunks n xs, h]
+    rfl
+  · rintro rfl
+    exact toChunks.eq_1 n
+
+theorem nil_not_mem_toChunks (n : ℕ) (xs : List α) : [] ∉ xs.toChunks n := by
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
theorem nil_notMem_toChunks (n : ℕ) (xs : List α) : [] ∉ xs.toChunks n := by
```

File: Mathlib/Data/List/ToChunks.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+    | cons x xs => simp [toChunks]
+  · cases xs with
+    | nil => rw [toChunks.eq_1]; simp
+    | cons x xs =>
+      rw [toChunks.eq_3 _ _ _ (Nat.succ_ne_zero _)]
+      exact nil_not_mem_toChunks_go _ _ _ _ (by simp) (by simp)
+
+theorem ne_nil_of_mem_toChunks {n : ℕ} {xs l : List α} (hl : l ∈ xs.toChunks n) : l ≠ [] := by
+  rintro rfl
+  exact nil_not_mem_toChunks n xs hl
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
  exact nil_notMem_toChunks n xs hl
```

File: Mathlib/Data/List/ToChunks.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+    · rename_i hsize
+      apply ih
+      · simp only [Array.size_push]
+        have : a.size ≠ n := by simpa using hsize
+        rcases Nat.eq_or_lt_of_le ha with h | h
+        · exact (this h).elim
+        · exact Nat.add_one_le_iff.mpr h
+      · exact hA
+
+private theorem nil_not_mem_toChunks_go (n : ℕ) (xs : List α) (a : Array α)
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
private theorem nil_notMem_toChunks_go (n : ℕ) (xs : List α) (a : Array α)
```

File: Mathlib/Data/List/ToChunks.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+theorem nil_not_mem_toChunks (n : ℕ) (xs : List α) : [] ∉ xs.toChunks n := by
+  rcases n with _ | n
+  · cases xs with
+    | nil => simp [toChunks]
+    | cons x xs => simp [toChunks]
+  · cases xs with
+    | nil => rw [toChunks.eq_1]; simp
+    | cons x xs =>
+      rw [toChunks.eq_3 _ _ _ (Nat.succ_ne_zero _)]
+      exact nil_not_mem_toChunks_go _ _ _ _ (by simp) (by simp)
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
      exact nil_notMem_toChunks_go _ _ _ _ (by simp) (by simp)
```

File: Mathlib/Data/List/ToChunks.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+    simp only [toChunks.go.eq_1, Array.toList_push, mem_append, mem_singleton]
+    rintro l (hl | rfl)
+    · exact hA l hl
+    · simpa using ha
+  | cons x xs ih =>
+    rw [toChunks.go.eq_2]
+    split
+    · rename_i hsize
+      apply ih
+      · exact Nat.one_le_iff_ne_zero.mpr (Nat.ne_of_gt hn)
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
    split_ifs with hsize
    · apply ih
      · exact Nat.one_le_of_lt hn
```

Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]:
```suggestion
    split_ifs with hsize
    · apply ih
      · exact Nat.one_le_of_lt hn
```

File: Mathlib/Data/List/ToChunks.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+          subst l
+          have : a.size = n := by simpa using hsize
+          simpa using Nat.le_of_eq this
+    · rename_i hsize
+      apply ih
+      · simp only [Array.size_push]
+        have : a.size ≠ n := by simpa using hsize
+        rcases Nat.eq_or_lt_of_le ha with h | h
+        · exact (this h).elim
+        · exact Nat.add_one_le_iff.mpr h
```
Comment (theebayuser) [inline Mathlib/Data/List/ToChunks.lean]: `omega` closes this goal

```suggestion
    · apply ih
      · have : a.size ≠ n := by simpa using hsize
        simp only [Array.size_push]
        omega
```
